US06747023B1
4-[(5-Chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-1-(tert-butoxycarbonyl)-2-[(1,3-dioxolan-2-yl)methyl]piperazine
In toluene (10 mL) were dissolved 4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-1-(tert-butoxycarbonyl)-2-(formylmethyl)piperazine (440 mg) and ethylene glycol (71 mg, followed by the addition of p-TsOH.H2O (15 mg). The resulting mixture was heated to 60° C. and stirred for 16 hours. Ethyl acetate was added to the reaction mixture. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous MgSO4 and distilled under reduced pressure to remove the solvent, whereby the title compound (460 mg) was obtained as colorless amorphous.

reactant | 4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-1-(tert-butoxycarbonyl)-2-(formylmethyl)piperazine | 440 mg | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)CC=O | C25H28ClN3O7S2
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | p-TsOH.H2O | 15 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(5-Chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-1-(tert-butoxycarbonyl)-2-[(1,3-dioxolan-2-yl)methyl]piperazine | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)CC1OCCO1 | C27H32ClN3O8S2
